US04957927
A solution of 2.8 g (10.9 mmole) of (diphenylmethoxy) acetyl chloride in 25 cm3 of methylene chloride was added quickly to a solution of 2.1 g (10.9 mmole) of (3-(3-methoxyphenyl) piperidine [prepared using the B. M. Iselin and K. Hoffmann method, Helv. Chim. Acta 1954, 37, 178] and 2.2 g (21.8 mmole) of triethylamine in 75 cm3 of methylene chloride. The solution was brought to reflux and maintained at reflux for 10 hours, then poured into a solution of 10cm3 of hydrochloric acid in 300 cm3 of water. The mixture was extracted with methylene chloride, washed with water and dried on sodium sulfate. After the solvent was evaporated under reduced pressure, the residue was purified using silica gel chromatography (eluent,hexane-ethyl acetate, 1/1). There was obtained 3.3 g (yield: 73%) of 1-[(diphenylmethoxy)acetyl]-3-(methoxyphenyl)piperidine.

reactant | (diphenylmethoxy) acetyl chloride | 10.9 mmole, 2.8 g | C1(=CC=CC=C1)C(OCC(=O)Cl)C1=CC=CC=C1 | C15H13ClO2
reactant | 3-(3-methoxyphenyl) piperidine | COC=1C=C(C=CC1)C1CNCCC1 | C12H17NO
reactant | triethylamine | 21.8 mmole, 2.2 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 10cm3 | Cl | ClH
reactant | methylene chloride | 25 cm3 | C(Cl)Cl | CH2Cl2
reactant | methylene chloride | 75 cm3 | C(Cl)Cl | CH2Cl2
solvent | water | 300 cm3 | O | H2O
product | 1-[(diphenylmethoxy)acetyl]-3-(methoxyphenyl)piperidine | 3.3 g, yield: 73% | C1(=CC=CC=C1)C(OCC(=O)N1CC(CCC1)C1=C(C=CC=C1)OC)C1=CC=CC=C1 | C27H29NO3
